US06326516B1
To a room temperature solution of 1.5 g (10.2 mmol) of trans-2-amino-1-cyclohexylcarboxylic acid in 75 ml of dioxane:H2O (1:1) containing 2.55 ml (18.3 mmol) of triethylamine was added 3.0 g (11.2 mmol) of 4-butynyloxybenzenesulfonyl chloride. The mixture was stirred at 25° C. for 18 h. The resulting mixture was diluted with ethyl acetate and washed with 1N aqueous hydrochloric acid (3×). The organic phase was dried over anhydrous magnesium sulfate and concentrated in vacuo to afford (1R,2R)-2-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)cyclohexanecarboxylic acid as a white solid. Electrospray Mass Spec 352.2 (M+H)+

reactant | trans-2-amino-1-cyclohexylcarboxylic acid | 10.2 mmol, 1.5 g | N[C@H]1[C@@H](CCCC1)C(=O)O | C7H13NO2
reactant | triethylamine | 18.3 mmol, 2.55 ml | C(C)N(CC)CC | C6H15N
reactant | 4-butynyloxybenzenesulfonyl chloride | 11.2 mmol, 3.0 g | C(#CCC)OC1=CC=C(C=C1)S(=O)(=O)Cl | C10H9ClO3S
solvent | dioxane H2O | 75 ml | O1CCOCC1.O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (1R,2R)-2-({[4-(2-butynyloxy)phenyl]sulfonyl}amino)cyclohexanecarboxylic acid | C(C#CC)OC1=CC=C(C=C1)S(=O)(=O)N[C@H]1[C@@H](CCCC1)C(=O)O | C17H21NO5S
